US07115596B2
4-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)butanenitrile
A mixture of tert-butyl 6-(3-cyano-4-ethoxy-4-oxobutyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate (5.78 g, 14.88 mmol) and KOH (powder, 1.25 g, 22.32 mmol) in ethylene glycol (30 mL) under N2 was heated at 150° C. for 3 hours. The mixture was cooled to 0° C. and portioned between water and EtOAc. The organic phase was washed with brine, dried over Na2SO4 and concentrated in vacuo. Flash chromatography (silica, 100% EtOAc) yielded a colorless oil (2.2 g, 66% yield). H NMR (CDCl3) δ 2.00 (t, 2H), 2.32 (t, 2H), 2.63 (t, 23H), 2.32 (s, 3H), 3.20 (t, 2H), 3.56 (t, 2H), 6.40 (d, 12H), 6.58(d, 1H), 4.20 (t, 2H), 6.41 (d, 1H), 6.89 (d, 1H).

reactant | tert-butyl 6-(3-cyano-4-ethoxy-4-oxobutyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate | 14.88 mmol, 5.78 g | C(#N)C(CCC=1C=CC2=C(N(CCN2C)C(=O)OC(C)(C)C)N1)C(=O)OCC | C20H28N4O4
reactant | KOH | 22.32 mmol, 1.25 g | [OH-].[K+]
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | ethylene glycol | 30 mL | C(CO)O | C2H6O2
product | 4-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)butanenitrile | 2.2 g, 66% yield | CN1C2=C(NCC1)N=C(C=C2)CCCC#N | C12H16N4
